US07491752B2
Preparation can be carried out analogously to Synthetic Example 1 using 16.2 g (100 mmol) 7-Hydroxycoumarin, 14.3 g (105 mmol) 6-chlorohexanol, 28.8 g (110 mmol) triphenylphosphine and 47.9 g (110 mmol) of a 40% solution of azodicarboxylic acid diethyl ester in toluene to yielded 7-(6-chlorohexyl) coumarin.

reactant | 7-Hydroxycoumarin | 100 mmol, 16.2 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | 6-chlorohexanol | 105 mmol, 14.3 g | ClCCCCCCO | C6H13ClO
reactant | triphenylphosphine | 110 mmol, 28.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-(6-chlorohexyl) coumarin | ClCCCCCCC1=CC=C2C=CC(OC2=C1)=O | C15H17ClO2
